US09399640B2
Step 2. 4-(4-Amino-2-(cyclopropylmethoxy)-3-nitrophenyl)-6-methyl-1-tosyl-1H-pyrrolo[2,3-c]pyridin-7(6H)-one
This compound was synthesized according to the procedure of Example 10, Step 5, using 4-bromo-3-(cyclopropylmethoxy)-2-nitroaniline and 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one as the starting materials. LCMS calculated for C25H25N4O6S (M+H)+: m/z=509.1. found: 509.1.

reactant | 4-bromo-3-(cyclopropylmethoxy)-2-nitroaniline | BrC1=C(C(=C(N)C=C1)[N+](=O)[O-])OCC1CC1 | C10H11BrN2O3
reactant | 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C21H25BN2O5S
product | 4-(4-Amino-2-(cyclopropylmethoxy)-3-nitrophenyl)-6-methyl-1-tosyl-1H-pyrrolo[2,3-c]pyridin-7(6H)-one | NC1=C(C(=C(C=C1)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)OCC2CC2)[N+](=O)[O-] | C25H24N4O6S
